US06423858B1
According to Example 1, 6.6 kg (31.1 mol) 3-chloropropylmethyldiethoxysilane are reacted with 24 kg (1412 mol) ammonia, excess ammonia is removed by pressure distillation and flash processes and the 3-aminopropylmethyldiethoxysilane that is formed is isolated by filtration and vacuum distillation.

reactant | 3-chloropropylmethyldiethoxysilane | 31.1 mol, 6.6 kg | ClCCC[Si](OCC)(OCC)C | C8H19ClO2Si
reactant | ammonia | 1412 mol, 24 kg | N | H3N
product | 3-aminopropylmethyldiethoxysilane | NCCC[Si](OCC)(OCC)C | C8H21NO2Si
